US07399778B2
To 2-ethyl-1-[1-(4-methoxybenzyl)-1H-pyrazol-5-yl]butan-1-ol (1.21 g, 4.20 mmol) in THF (40 mL) at 0° C. was added triphenylphosphine (1.65 g, 6.29 mmol), diethyl azodicarboxylate (1.0 mL, 6.3 mmol), and diphenylphosphoryl azide (1.4 mL, 6.3 mmol). The reaction mixture was warmed to room temperature and stirred for 15.5 h. The solvent was removed in vacuo and the resulting residue was purified by column chromatography (EtOAc/hexanes, 1:9, then 1:4) to give 0.862 g (66%) of 5-(1-azido-2-ethylbutyl)-1-(4-methoxybenzyl)-1H-pyrazole.

reactant | 2-ethyl-1-[1-(4-methoxybenzyl)-1H-pyrazol-5-yl]butan-1-ol | 4.20 mmol, 1.21 g | C(C)C(C(O)C1=CC=NN1CC1=CC=C(C=C1)OC)CC | C17H24N2O2
reactant | triphenylphosphine | 6.29 mmol, 1.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.3 mmol, 1.0 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphoryl azide | 6.3 mmol, 1.4 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-(1-azido-2-ethylbutyl)-1-(4-methoxybenzyl)-1H-pyrazole | 0.862 g, 66% | N(=[N+]=[N-])C(C(CC)CC)C1=CC=NN1CC1=CC=C(C=C1)OC | C17H23N5O
